US09403782B2
tert-Butyl 7-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate:
A mixture 4-(trifluoromethyl)phenylboronic acid (987 mgs, 5.2 mmol), 7-Bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (1.2 g, 4.0 mmol), potassium carbonate (1.1 g, 8.0 mmol), PdCl2(dppf) (146 mgs, 0.2 mmol) in toluene/ethanol/water (3 mL/1.5 mL/1.5 mL) was heated in pressure vessel at 120° C. for 2 h. The mixture was then concentrated and chromatographed (40 grams of SiO2, 30% EtOAc/hexanes) to provide the title compound (1.4 g, 92% yield over two steps).

reactant | 4-(trifluoromethyl)phenylboronic acid | 5.2 mmol, 987 mgs | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 7-Bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 4.0 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)Br | C14H18BrNO2
reactant | potassium carbonate | 8.0 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 3 mL | C1(=CC=CC=C1)C.C(C)O.O
catalyst | PdCl2(dppf) | 0.2 mmol, 146 mgs | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 7-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 1.4 g, 92% yield | FC(C1=CC=C(C=C1)C1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C)(F)F | C21H22F3NO2
